US04254267
(D) (±)-3-(2-Furanyl)-4,5-dihydro-1-(3-mercapto-1-oxopropyl)-1H-pyrazole-5-carboxylic acid
Aqueous ammonia (12 cc) is stirred under nitrogen at 10° C. for 30 minutes, at which point 4.3 g of (±)-1-[3-(acetylthio)-1-oxopropyl]-3-(2-furanyl)-4,5-dihydro-1H-pyrazole-5-carboxylic acid is added. The resulting solution is stirred for about 2.5 hours under nitrogen. The solution is extracted with ethyl acetate (discarded) and then made strongly acid with 20% HCl. An oil results which is extracted with 150 cc ethyl acetate. The aqueous layer is extracted with an additional two 150 cc portions of ethyl acetate. The combined organic layers are extracted with 200 cc saturated NaCl and then dried over MgSO4. The solvent is removed to yield 3.7 g of semicrystalline residue which is triturated with ether to yield 2.3 g of product melting at 121°-123° C. The product does not crystallize readily from any solvent tried.

reactant | ammonia | 12 cc | N | H3N
reactant | (±)-1-[3-(acetylthio)-1-oxopropyl]-3-(2-furanyl)-4,5-dihydro-1H-pyrazole-5-carboxylic acid | 4.3 g | C(C)(=O)SCCC(=O)N1N=C(CC1C(=O)O)C=1OC=CC1 | C13H14N2O5S
product | (±)-3-(2-Furanyl)-4,5-dihydro-1-(3-mercapto-1-oxopropyl)-1H-pyrazole-5-carboxylic acid | 2.3 g | O1C(=CC=C1)C1=NN(C(C1)C(=O)O)C(CCS)=O | C11H12N2O4S
